US09284335B2
Step E: 9-(((2S,6R)-2,6-Dimethylmorpholino)methyl)-6-(4-(trifluoromethoxy)benzyl)pyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5(6H)-one.
To a mixture of 9-(((2S,6R)-2,6-dimethylmorpholino)methyl)pyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5(6H)-one (50 mg, 0.16 mmol) and 4-(trifluoromethoxy)benzyl bromide (49 mg, 0.19 mmol) in DMF (2 mL) was added potassium carbonate (44 mg, 0.32 mmol). The resulting mixture was heated at 55° C. overnight. The crude mixture was filtered then purified directly (HPLC, 10-70% ACN-water) to afford the title compound (58 mg, 61%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 1.14 (d, J=6.15 Hz, 6H), 2.63-2.85 (m, 2H), 3.26-3.45 (m, 2H), 3.72-3.86 (m, 2H), 4.40-4.62 (m, 2H), 5.70 (s, 2H), 7.32 (d, J=8.28 Hz, 2H), 7.59 (d, J=8.66 Hz, 2H), 8.69 (s, 1H), 8.84 (s, 1H), 8.89 (br s, 1H). [M+H]=489.2.

reactant | 9-(((2S,6R)-2,6-dimethylmorpholino)methyl)pyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5(6H)-one | 0.16 mmol, 50 mg | C[C@@H]1O[C@@H](CN(C1)CC1=CC=2C=3N(C(NC2N=C1)=O)N=CN3)C | C15H18N6O2
reactant | 4-(trifluoromethoxy)benzyl bromide | 0.19 mmol, 49 mg | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
reactant | potassium carbonate | 0.32 mmol, 44 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 9-(((2S,6R)-2,6-Dimethylmorpholino)methyl)-6-(4-(trifluoromethoxy)benzyl)pyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5(6H)-one | 58 mg, 61% | C[C@@H]1O[C@@H](CN(C1)CC1=CC=2C=3N(C(N(C2N=C1)CC1=CC=C(C=C1)OC(F)(F)F)=O)N=CN3)C | C23H23F3N6O3
